US09029545B2
N-{2,6-Dimethyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-yl}-cyclohexanesulfonamide
To a stirred solution of 2,6-dimethyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-amine (100 mg, 0.352 mmol) (Description 4) in THF (2 mL), cooled in an ice bath, was added LiHMDS (1M solution in THF) (0.774 mL, 0.774 mmol). The reaction mixture was stirred at RT for 45 min before the addition of cyclohexanesulfonyl chloride (0.161 g, 0.879 mmol). The reaction mixture was then stirred at RT for a further 12 h. The reaction mixture was then re-cooled in an ice bath before the addition of LiHMDS (1M solution in THF) (0.352 mL, 0.352 mmol). The reaction mixture was then stirred at RT for 45 min before the addition of cyclohexanesulfonyl chloride (0.064 g, 0.352 mmol). The reaction mixture was then stirred at RT for a further 12 h. The reaction mixture was then diluted with water (15 mL) and the aqueous layer extracted with DCM (3×30 mL) and the combined organic extracts dried over a phase separating column and concentrated. The residue was then purified by MDAP (basic conditions), to afford the title compound (22 mg). LCMS (A) m/z: 431 [M+1]+, Rt 1.16 min (basic).

reactant | 2,6-dimethyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-amine | 0.352 mmol, 100 mg | CC1=C(C2=C(N=C(C=C2N)C)S1)C1=CC(=CC=C1)OC | C16H16N2OS
reactant | LiHMDS | 0.774 mmol, 1M, 0.774 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | cyclohexanesulfonyl chloride | 0.879 mmol, 0.161 g | C1(CCCCC1)S(=O)(=O)Cl | C6H11ClO2S
reactant | LiHMDS | 0.352 mmol, 1M, 0.352 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | cyclohexanesulfonyl chloride | 0.352 mmol, 0.064 g | C1(CCCCC1)S(=O)(=O)Cl | C6H11ClO2S
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 15 mL | O | H2O
product | N-{2,6-Dimethyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-yl}-cyclohexanesulfonamide | 22 mg | CC1=C(C=2C(=NC(=CC2NS(=O)(=O)C2CCCCC2)C)S1)C1=CC(=CC=C1)OC | C22H26N2O3S2
